US05459138
EXAMPLE 46: 3-CYCLOHEXYLAMINO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
A solution of 0.7 g of 3-methylthio-4H- pyrido[4,3-e][1,2,4]thiadiazine 1,1-dioxide in 7 cm3 of cyclohexylamine is heated at reflux for 4 hours. The reaction mixture is concentrated under partial vacuum and the residue is taken up in 10 cm3 of water and is slightly basified by addition of 10% sodium hydroxide solution. The aqueous phase is stirred with 25 cm3 of diethyl ether in order to extract a possible excess of cyclohexylamine. After separation by settling, the aqueous solution is adjusted to a pH of 7 and the white precipitate is collected on a filter and washed with water. It is recrystallized from hot water.

reactant | 3-methylthio-4H- pyrido[4,3-e][1,2,4]thiadiazine 1,1-dioxide | 0.7 g | CSC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C7H7N3O2S2
reactant | cyclohexylamine | 7 cm3 | C1(CCCCC1)N | C6H13N
product | 3-CYCLOHEXYLAMINO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | C1(CCCCC1)NC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C12H16N4O2S
